US06706707B2
a) 5-(3,5-Dimethyl-3H-imidazol-4-yl)-3-methyl-[1,2,4]oxadiazole
A solution of 3,5-dimethyl-3H-imidazole-4-carboxylic acid (1.0 g, 7.14 mmol) and 1,1′-carbonyldiimidazole (1.74 g, 10.7 mmol) in DMF (35 ml) was stirred at RT for 3 h. N-hydroxy-acetamidine (0.68 g, 9.18 mmol) was added, the reaction mixture was stirred at 16 h at 80° C., evaporated and dissolved in acetic acid (30 ml). The solution was stirred at 100° C. for 2 h, evaporated, poured into sat. NaHCO3 solution (50 ml) and extracted with dichloromethane (7×30 ml). The combined organic layers were washed with brine (70 ml), dried (MgSO4) and evaporated to give the title compound (0.78 g, 61%) as a white solid, m.p. 95° C. and MS: m/e=178.2 (M+).

reactant | 3,5-dimethyl-3H-imidazole-4-carboxylic acid | 7.14 mmol, 1.0 g | CN1C=NC(=C1C(=O)O)C | C6H8N2O2
reactant | 1,1′-carbonyldiimidazole | 10.7 mmol, 1.74 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-hydroxy-acetamidine | 9.18 mmol, 0.68 g | ONC(C)=N | C2H6N2O
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 5-(3,5-Dimethyl-3H-imidazol-4-yl)-3-methyl-[1,2,4]oxadiazole | 0.78 g, 61% | CN1C=NC(=C1C1=NC(=NO1)C)C | C8H10N4O
